Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
GI bleeding
 
Major Surgical or Invasive Procedure:
Upper endoscopy

 
History of Present Illness:
Admission ___ 0200

CC:vomiting blood

___ c/o epigastric abd pain,dull ache, not radiating, 
burning and feeling of early sateity, unable to eat and drink. 
Nausea all day, vomiting x 1 with blood specs in vomit. Blood 
was seen with first episode of emesis, not after repeated 
episodes. Had EGD in ___ that was normal. H/o intussiseption 
req emergency surgery, but these symptoms are in no way similar 
to that episode.

In ER: (Triage Vitals:98.8 68 148/81 16 100) HCT normal. guiac 
neg from below. NG lavage ___ teaspons of blood that cleared 
with 200cc of fluid, but there was trauma and bleeding from his 
nose with NGT placement. Given IV ppi, 99.0 86 146/70 98%RA 

ROS:  
-Constitutional: [x]WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia  
-Eyes: []WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia  
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat  
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE  
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough 
 
-Gastrointestinal: see HPI
-Heme/Lymph: []WNL []Bleeding []Bruising []Lymphadenopathy  
-GU: [x]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]Discharge []Menorrhagia  
-Skin: [x]WNL []Rash []Pruritus  
-Endocrine: []WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance  
-Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain  
-Neurological: [ x]WNL []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache  
 
Past Medical History:
intussiseption from mesenteric adenitits s/p surgery 
 
Social History:
___
Family History:
no h/o PUD, IBD
 
Physical Exam:
VS: 98.9 147/70 69 16 98RA
Gen: Well appearing, no acute distress, awake, alert, 
appropriate, and oriented x 3  
Skin: warm to touch, no apparent rashes. 
HEENT: No conjunctival pallor, no scleral jaundice,  OP clear, 
no cervical LAD 
CV:  RRR no audible m/r/g, pulses 2+, no ___ edema
Lungs: clear to auscultation 
Abd: soft, mild epigastric tenderness, no r/g. bowel sounds wnl 
Ext: No C/C/E
Neuro:  strength and sensation intact bilaterally. 

 
Pertinent Results:
___ 08:45PM   GLUCOSE-87 UREA N-14 CREAT-1.2 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-28 ANION GAP-14
___ 08:45PM   WBC-7.5 RBC-5.15 HGB-16.3 HCT-46.9 MCV-91 
MCH-31.7 MCHC-34.8 RDW-13.1
___ 08:45PM   NEUTS-63.9 ___ MONOS-5.6 EOS-2.0 
BASOS-0.6
___ 08:45PM   PLT COUNT-227
___ 08:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 08:05PM   GLUCOSE-89 UREA N-13 CREAT-1.2 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-30 ANION GAP-12
___ 08:05PM   estGFR-Using this
___ 08:05PM   WBC-7.1 RBC-4.89 HGB-15.6 HCT-44.2 MCV-90 
MCH-31.9 MCHC-35.4* RDW-13.3
___ 08:05PM   NEUTS-64.9 ___ MONOS-6.0 EOS-2.1 
BASOS-0.6
___ 08:05PM   PLT COUNT-218

KUB: IMPRESSION: No evidence of obstruction.

Upper endoscopy: 
Fundic markings consistent with NG tube trauma.
Otherwise normal EGD to third part of the duodenum 
Likely ___ tear given alcohol ingestion then vomiting 
blood.
 
Brief Hospital Course:
___ with h/o GERD and intussiception requring emergency surgery 
who presents with epigastric pain and GI bleeding. DDx is broad 
including gastritis, esophagitis, PUD. Hemodynamically stable. 
Less likley to be repeat episode of intussiception as his 
symptoms are quite different and far more mild. 

Upper endoscopy performed and was normal.  Impression: Likely 
___ Tear.  Recommend using alcohol only in moderation. 
 Pt tolerated diet after procedure and was discharged with 
recommendations to f/u with PCP.
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
- Hematemesis
- Alcohol use
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for evaluation of vomiting blood.  An 
endoscopy was performed that did not show any active bleeding.  
Blood with vomiting can be assoicated with alcohol use.  Please 
use alcohol with moderation.
 
Followup Instructions:
___